US07691850B2
c) (±)-1,1-dimethylethyl cis-3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate
To a solution of (±)-1,1-dimethylethyl cis-3-(aminomethyl)-4-hydroxy-1-pyrrolidinecarboxylate (10.0 g, 46.0 mmole) in DMF (50 mL) at RT was added Et3N (8.4 mL, 60.0 mmole) and N-(benzyloxycarbonyloxy)succinimide (14.95 g, 60.0 mmole). After 18 h, the DMF was removed under vacuum and the residue purified on silica (25-50% DCM/EtOAc) to give the title compound (15.3 g, 95%) as a white foam: LC-MS (ES) m/e 351 (M+H)+; and a small amount of an N-methylated byproduct [1,1-dimethylethyl (3S,4S)-3-hydroxy-4-[(methyl{[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate] (0.33 g, 2%): LC-MS (ES) m/e 365 (M+H)+.

reactant | (±)-1,1-dimethylethyl cis-3-(aminomethyl)-4-hydroxy-1-pyrrolidinecarboxylate | 46.0 mmole, 10.0 g | NC[C@@H]1CN(C[C@@H]1O)C(=O)OC(C)(C)C | C10H20N2O3
reactant | Et3N | 60.0 mmole, 8.4 mL | CCN(CC)CC | C6H15N
reactant | N-(benzyloxycarbonyloxy)succinimide | 60.0 mmole, 14.95 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (±)-1,1-dimethylethyl cis-3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | 15.3 g, 95% | O[C@@H]1CN(C[C@@H]1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H26N2O5
